US06518267B1
a) 4-(4-Nitrophenoxy)benzoic Acid
Following the general procedure of J. Polym. Sci., Polym. Chem. Ed. (1980), 18(10). 3069-80, 4-hydroxybenzoic acid, 1-chloro-4-nitro-benzene and sodium methoxide were heated in DMSO at 130° C. to afford the title compound.

reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-chloro-4-nitro-benzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(4-Nitrophenoxy)benzoic Acid | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C13H9NO5
